US07452892B2
C. Preparation of 3-(chloromethyl)-2-cyclopropyl-6-(trifluoromethyl)pyridine
To a stirring solution of (2-cyclopropyl-6-(trifluoromethyl)pyridin-3-yl)methanol (890 mg, 4.1 mmol) in dichloromethane (10 mL) at room temperature under argon was added thionyl chloride (730 mg, 6.1 mmol) followed by 3 drops of DMF. The reaction mixture was stirred at room temperature for 15 h. The reaction mixture was then concentrated under vacuum to obtain a light brown oil. This oil was diluted with EtOAc (20 mL) and washed with 10% aqueous Na2CO3 solution (20 mL). The organic layer was separated, washed with saturated aqueous NaCl, dried (MgSO4), filtered and concentrated to obtain 900 mg of the title compound as a light brown oil. HPLC/MS: retention time=3.66 min, [M+H]+=236.

reactant | (2-cyclopropyl-6-(trifluoromethyl)pyridin-3-yl)methanol | 4.1 mmol, 890 mg | C1(CC1)C1=NC(=CC=C1CO)C(F)(F)F | C10H10F3NO
reactant | thionyl chloride | 6.1 mmol, 730 mg | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 3-(chloromethyl)-2-cyclopropyl-6-(trifluoromethyl)pyridine | 900 mg | ClCC=1C(=NC(=CC1)C(F)(F)F)C1CC1 | C10H9ClF3N
